US03968117
2,6-Dimethyl-4-[3-(2-diethylaminoethylamino)-6-chlorophenyl]-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester. ##SPC8##
Thirty grams of 2,6-dimethyl-4-(3-amino-6-chlorophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester (melting point 210°) and 15 ml of 2-diethylaminoethyl chloride are heated for 15 minutes to about 200° and the mixture is taken up in hot water, rendered alkaline after addition of ice and extracted with ether.

reactant | 2,6-dimethyl-4-(3-amino-6-chlorophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | Thirty grams | C(C)OC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1Cl)N)C(=O)OCC)C)C | C19H23ClN2O4
reactant | 2-diethylaminoethyl chloride | 15 ml | C(C)N(CCCl)CC | C6H14ClN
solvent | water | O | H2O
product | 2,6-Dimethyl-4-[3-(2-diethylaminoethylamino)-6-chlorophenyl]-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | C(C)OC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1Cl)NCCN(CC)CC)C(=O)OCC)C)C | C25H36ClN3O4
